US06867299B2
30 mg (0.09 mmol) of N-(2-amino-1,1-dimethyl-ethyl)-N′-(3-methoxy-4-oxazol-5-yl-phenyl)-oxalamide, 11.3 mg (0.095 mmol) of 4-methylbenzaldehyde and 30 mg (0.14 mmol) of sodium triacetoxyborohydride were dissolved in 2 ml of a 5% acetic acid dichloromethane mixture for 16 hours. The reaction mixture was then diluted with 8 ml of dichloromethane and washed with water, saturated sodium hydrogen carbonate and brine. The resulting organic solution was then dried with magnesium sulphate, filtered and evaporated to give N-[3-methoxy-4-(5-oxazolyl)phenyl-N′-[2-(4-methylbenzylamino)-1,1-dimethylethyl]oxalamide as a yellow solid MS: m/e 437.3 [M+H]+.

reactant | N-(2-amino-1,1-dimethyl-ethyl)-N′-(3-methoxy-4-oxazol-5-yl-phenyl)-oxalamide | 0.09 mmol, 30 mg | NCC(C)(C)NC(C(=O)NC1=CC(=C(C=C1)C1=CN=CO1)OC)=O | C16H20N4O4
reactant | 4-methylbenzaldehyde | 0.095 mmol, 11.3 mg | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | sodium triacetoxyborohydride | 0.14 mmol, 30 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid dichloromethane | ClCCl.C(C)(=O)O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 3-methoxy-4-(5-oxazolyl)phenyl-N′-[2-(4-methylbenzylamino)-1,1-dimethylethyl]oxalamide | COC=1C=C(C=CC1C1=CN=CO1)NC(C(=O)NC(CNCC1=CC=C(C=C1)C)(C)C)=O | C24H28N4O4
